data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3764,4312,[CH3:10][C-:11]([CH3:12])[NH+:13]=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])([CH3:12])[NH:13][CH:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,20.866319419139344,-25.92739896470593
1981,2201,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[O+:21][CH-:22][C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[CH:22]([C:23]#[N:24])[O:21][C:20]3([C:18]([NH:17][CH3:16])=[O:19])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,7.31941644560804,-67.69866653368628
577,633,[CH3:10][C:11](=[O+:12][N-:13][C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[Cl:1][CH:2]1[C:3]#[C:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1>>[Cl:1][CH:2]1[C:3]2=[C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[C:11]([CH3:10])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[O:12][N:13]2[C:14]#[N:15],water,298.15,13.09624230354542,-42.89104592535376
3094,3484,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]#[N+:11][CH-:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:12]([C:13]([CH3:14])=[O:15])[N:11]=[C:10]1[C:8]([CH3:7])=[O:9],water,298.15,15.222010057951245,-31.39468516500316
2986,3338,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][N-:8][O+:9]=[C:10]([CH3:11])[C:12]#[N:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([CH3:11])([C:12]#[N:13])[O:9][N:8]1[CH3:7],water,298.15,16.039307238122646,-37.55582364423008
1101,1199,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[CH:12]=[NH+:13][C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[Br:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[CH:12]([C:10]([CH3:9])=[O:11])[NH:13][C:14]2([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,15.38613583348485,-32.73850901891202
4189,4792,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][NH-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][NH:16]1,water,298.15,13.967744153709733,-36.67794803714682
1506,1661,[CH2-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH2:17]3,water,298.15,12.096251578817132,-40.90852806749898
3030,3387,[CH3:9][C:10](=[O:11])[CH:12]=[NH+:13][NH-:14].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[NH:14][NH:13][CH:12]1[C:10]([CH3:9])=[O:11],water,298.15,22.62267030379613,-19.31167319073139
2789,3099,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][NH:26][C:27](=[O:28])[C:29]([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)=[N+:36]([CH3:37])[C-:38]([CH3:39])[CH3:40]>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:38]([CH3:39])([CH3:40])[N:36]([CH3:37])[C:29]2([C:27]([NH:26][CH3:25])=[O:28])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,24.80474027670905,-37.92821906342256
204,221,[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][NH-:18].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[NH:18][NH:17][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,25.32825764230636,-4.642791998459884
5026,5714,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[O+:20][C-:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[O:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,7.487098863281687,-22.494382134973307
